US06242601B1
To a solution of 6.6 mg of acetic acid and 22.3 mg of 4-methylmorpholin in DMF (5 ml) were added under ice-cooling 22.3 g of 2-Chloro-4,6-dimethoxy-1,3,5,-triazine and the solution was then stirred for 90 minutes at RT. Then 60 mg of 5-methyl-pyridine-2-sulfonic acid [2-(2-aminomethyl-pyridin-4-yl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide hydrochloride were added and stirring was continued for 12 h at RT. The mixture was partitioned between cold diluted HCl and EtOAc. The layers were separated the organic layer washed with water, dried over Na2SO4 and the solvent removed in vacuo to give N-{4-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-pyridine-2-sulfonylamino)-pyrimidin-2-yl]-pyridin-2-ylmethyl}-acetamide as a light yellow crystalline solid. ISN mass spectrum, m/e 549.1 (M−1 calculated for C26H26N6O6S: 549).

reactant | acetic acid | 6.6 mg | C(C)(=O)O | C2H4O2
reactant | 4-methylmorpholin | 22.3 mg | CN1CCOCC1 | C5H11NO
reactant | 2-Chloro-4,6-dimethoxy-1,3,5,-triazine | 22.3 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 5-methyl-pyridine-2-sulfonic acid [2-(2-aminomethyl-pyridin-4-yl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide hydrochloride | 60 mg | Cl.NCC1=NC=CC(=C1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC)OC
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-{4-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-pyridine-2-sulfonylamino)-pyrimidin-2-yl]-pyridin-2-ylmethyl}-acetamide | COC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)NS(=O)(=O)C1=NC=C(C=C1)C)C1=CC(=NC=C1)CNC(C)=O | C26H26N6O6S
